US06599917B1
a) 2-Benzyl-3-iodo-6-[(3S,4S)-3-(3-nitrobenzenesulfonyl)oxy-4-methoxypyrrolidine-1-yl)pyridine
300 mg of 4-dimethylaminopyridine, 10 ml of triethylamine and 9.7 g of 3-nitrobenzenesulfonyl chloride were added to a solution of 10.0 g of 2-benzyl-3-iodo-6-[(3S,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine obtained in the same manner as in Example 10-c in 150 ml of ethyl acetate, followed by stirring at room temperature for 3 days. The reaction solution was first filtered through 50 g of silica gel, and washed with ethyl acetate. Further, the filtrate was filtered through 50 g of NH-silica gel and washed with ethyl acetate. The filtrate was concentrated, to give 14.6 g of the target compound.

reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzenesulfonyl chloride | 9.7 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2-benzyl-3-iodo-6-[(3S,4S)-3-hydroxy-4-methoxypyrrolidine-1-yl]pyridine | 10.0 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@@H]([C@H](C1)OC)O | C17H19IN2O2
catalyst | 4-dimethylaminopyridine | 300 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 2-Benzyl-3-iodo-6-[(3S,4S)-3-(3-nitrobenzenesulfonyl)oxy-4-methoxypyrrolidine-1-yl)pyridine | 14.6 g | C(C1=CC=CC=C1)C1=NC(=CC=C1I)N1C[C@@H]([C@H](C1)OC)OS(=O)(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C23H22IN3O6S
